US06174898B1
1-(2-((2,2-bis(2-Methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride
1-(2-((2,2-bis(2-Methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester (0.70 g, 0.0018 mol, prepared similarly to the method described in Example 65) was dissolved in ethanol (30 ml) and 10 N sodium hydroxide solution (1.79 ml) was introduced. The reaction mixture was stirred at room temperature for 2.5 h and water (100 ml) was added, followed by 2 N hydrochloric acid solution to pH 10. Ethanol was removed by evaporation under reduced pressure, and the aqueous solution was washed with ethyl acetate (20 ml). The aqueous phase was separated, acidified to pH 2 with 2 N hydrochloric acid solution, and extracted with dichloromethane (4×50 ml). The combined extracts was dried (MgSO4) and the residue was crystallized from propanol/toluene to give the title compound (0.53 g, 76%).

reactant | 1-(2-((2,2-bis(2-Methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1CN(CCC1)CCOC=C(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C25H29NO3
reactant | sodium hydroxide | 10 N, 1.79 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(2-((2,2-bis(2-Methylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride | 0.53 g, 76% | Cl.CC1=C(C=CC=C1)C(=COCCN1CC(=CCC1)C(=O)O)C1=C(C=CC=C1)C | InChI=1S/C24H27NO3.ClH/c1-18-8-3-5-11-21(18)23(22-12-6-4-9-19(22)2)17-28-15-14-25-13-7-10-20(16-25)24(26)27;/h3-6,8-12,17H,7,13-16H2,1-2H3,(H,26,27);1H
